US05151268
Ten to twenty μg of plasmid pL133 DNA were added to 62.5 μl of 2M CaCl2 and 437.5 μl of H2O. The 0.5 ml of DNA were then added dropwise to 0.5 ml of 2× HeBS (10 g/L Hepes, pH =7.5; 16 g/L NaCl; 0.74 g/L KCl; 0.25 g/L Na2PO4 ; and 2 g/L dextrose), forming a milky precipitate. The mixture was allowed to stand for 10-20 minutes at room temperature before it was added to the cells. A longer incubation time may result in a coarser precipitate that does not transform well, but sometimes a longer incubation time may be necessary to form a precipitate.

reactant | CaCl2 | 2M, 62.5 μl | [Cl-].[Cl-].[Ca+2]
reactant | Hepes | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | [Na+].[Cl-]
reactant | KCl | [Cl-].[K+]
reactant | H2O | 437.5 μl | O | H2O
product | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
